US08754080B2
To a solution of 5-(8-bromo-9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine, (30 mg, 0.072 mmol) and Pd(dppf)Cl2, (3 mg, 5% mmol) in 3 ml of anhydrous dioxane, was added slowly dimethyl zinc (210 μl, 1.0 M in heptane solution) in a sealed tube. The mixture was heated to about 65′C. MeOH was added drop wise and the solvents removed in vacuo. EtOAc was added to the residue and the resulting solution washed with 1 M HCl, water, brine and then dried over Na2SO4. The solvent was removed and the crude mixture was subjected to flash chromatography on silica gel to obtain 5-(9-isopropyl-8-methyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine 8 mg in a yield of 47%. 1H NMR, MeOD: 9.40 (s, 2H), 4.81 (m, 1H), 3.89 (m, 4H), 3.82 (s, 4H), 3.71 (s, 3H), 1.73 (d, 6H). m/z: 355.16 [MH]+.

reactant | 5-(8-bromo-9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | 0.072 mmol, 30 mg | BrC=1N(C2=NC(=NC(=C2N1)C=1C=NC(=NC1)N)N1CCOCC1)C(C)C | C16H19BrN8O
reactant | dimethyl zinc | 1.0 M, 210 μl | C[Zn]C
reactant | MeOH | CO | CH4O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(9-isopropyl-8-methyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | 8 mg, yield of 47% | C(C)(C)N1C2=NC(=NC(=C2N=C1C)C=1C=NC(=NC1)N)N1CCOCC1 | C17H22N8O
